US06001862
N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-hydroxybenzamide
To a suspension of N-(4-trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxybenzamide (800 mg) in anhydrous methylene chloride (30 ml), a 1.0N boron tribromide-methylene chloride solution (2.20 ml) was slowly added dropwise in an argon atmosphere under cooling with dry ice-acetone and stirring. After stirred for 6 hours at room temperature, the reaction liquor was allowed to stand for 3 days. After water was added and the mixture was stirred for 30 minutes, this was concentrated under reduced pressure. Ethyl acetate was added to the residue, which was washed with water and then dried over anhydrous sodium sulfate. This was concentrated under reduced pressure and the residue was purified by means of silica gel column chromatography (developing solvent; methylene chloride:methanol=40:1) to obtain 618 mg (80%) of aimed compound as crystals. These were recrystallized from ethanol-water to obtain purified aimed compound as a light brown powdery crystals. Melting point 146.0~148.0° C.

reactant | N-(4-trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxybenzamide | 800 mg | FC(C1=CC=C(CNC(C2=C(C=CC(=C2)CC2C(NC(S2)=O)=O)OC)=O)C=C1)(F)F | C20H17F3N2O4S
reactant | boron tribromide methylene chloride | 1.0N, 2.20 ml | B(Br)(Br)Br.C(Cl)Cl
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-hydroxybenzamide | 618 mg, 80% | FC(C1=CC=C(CNC(C2=C(C=CC(=C2)CC2C(NC(S2)=O)=O)O)=O)C=C1)(F)F | C19H15F3N2O4S
